US06780996B2
Following the procedure used to prepare Example 15, 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-ethoxy-7-fluoro-3-quinolinecarbonitrile (250 mg, 0.64 mmol) and tetrahydropyran-2-methanol provides 177 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-(tetrahydro-2H-pyran-2-ylmethoxy)-3-quinolinecarbonitrile, mp 193-196° C.

reactant | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-ethoxy-7-fluoro-3-quinolinecarbonitrile | 0.64 mmol, 250 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OCC)F)C#N | C19H14Cl2FN3O2
reactant | tetrahydropyran-2-methanol | O1C(CCCC1)CO | C6H12O2
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-(tetrahydro-2H-pyran-2-ylmethoxy)-3-quinolinecarbonitrile | 177 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)OCC1OCCCC1)C#N | C24H23Cl2N3O4
